2187-10-30 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2187-10-29**] 08:22 AM
 ENDOSCOPY - At [**2187-10-29**] 11:00 AM
   - melanic bowel movements with significant drop in hematocrit with NG
   lavage showing some blood clots that cleared, underwent EGD.
   - EGD showed multiple ulcers in the stomach and duodenum consistent
   with NSAID usage. GI recommended ppi gtt for now and to be switched to
   po PPI after 48 hours (protonix 40 mg po bid).
   - q8h hct
   - transfused 1 unit PRBC with appropriate bump in Hct
 EKG - At [**2187-10-29**] 03:40 PM
   - Neurosurgery tomorrow for epidural abscess drainage (and C7
   corpectomy, C4-T1 fusion, T3-4 laminectomy).
   - ID recommended switching from Vanc/Cefepime/Flagyl to Nafcillin for
   MSSA epidural abscess
   - on PCA drip for pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 09:22 AM
   Vancomycin - [**2187-10-29**] 10:20 AM
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-10-30**] 04:20 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-10-29**] 10:55 AM
   Fentanyl - [**2187-10-29**] 11:05 AM
   Morphine Sulfate - [**2187-10-29**] 10:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-30**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 111 (100 - 113) bpm
   BP: 141/65(82) {112/54(70) - 155/79(102)} mmHg
   RR: 22 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,186 mL
                                                                    311 mL
   PO:
             TF:
   IVF:
                                                                    836 mL
                                                                    311 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,465 mL
                                                                    485 mL
   Urine:
                                                                  1,465 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: VS prior to transfer to  the ICU: T 98.9, BP
   134/75, P 105, RR 20, 98% 2LNC
   General: appears pale, tired, somewhat anxious but NAD
   HEENT: poor dentition, OP clear
   LUNGS: CTA anteriorly
   CARDIO: RR, hyperdynamic with pounding pulses, no m/r/g appreciated
   ABDOMEN: soft, +epigastric discomfort, no rebound, but slight guarding
   EXTREMITIES: 3+ symmetric UE and LE edema; right PICC
   NEURO: AA though speech somewhat slow and deliberate (appears to be due
   to fatigue/exhaustion), answers appropriately, Ox3, CN II-XII in tact
   Labs / Radiology
   559 K/uL
   10.0 g/dL
   81 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   30 mg/dL
   113 mEq/L
   145 mEq/L
   30.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2187-10-29**]  07:50 AM
                             [**2187-10-29**]  04:28 PM
                             [**2187-10-29**]  11:52 PM
                             [**2187-10-30**]  04:13 AM
   WBC
   13.5
   13.8
   16.3
   16.7
   Hct
   24.4
   29.4
   30.8
   30.7
   Plt
   [**Telephone/Fax (3) 10403**]59
   Cr
   0.6
   0.6
   Glucose
   109
   81
   Other labs: PT / PTT / INR:12.9/26.0/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Cortsol: 26.9
   Microbiology: [**10-27**], [**10-28**] bcx
   [**10-26**], [**10-28**] ucx pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Bacteremia/extreme weakness: Appears to be staph aureus seeding of
   her spine. It does not have the appearance of metastasis. Pt has been
   spiking temps last night to 101.8 and remains tachycardic. Now c tender
   abd and cxr shows cannot r/o bl pna. WBC count up for past 2 days.
   Husband called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
    Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].
   - Will undergo neurosurgical procedure (epidural abscess drainage,
   corpectomy, laminectomy, fusion) today
   - Continue Nafcillin
   - Started decadron 6q6 on [**10-23**]. Now on pred taper
   - fu ID recs
   - fu cultures
   - consider ophtho consult for ? emboli to eyes
   - consider check HIV
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - NPO / holding tube feeds
   - Continue pantoprazole gtt for another 24 hours, then switch to po ppi
   - Hct stable; check [**Hospital1 **] now
   - f/u GI recs
    .
   # Pain: pt has diffuse pain where her body hits bed. better right after
   moving and after morphine. Pt states hip pain is different from her
   sciatic pain (which has not been bothering her in the hospital.).   Hip
   CT unremarkable.
   - Morphine PCA with basal at 1mg/hr, 0.5mg prn with 6 min lockout
   - try to get [**Doctor First Name 23**]-air bed
   .
   Less active issues:
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. consider fluconazole if not
   improved by [**10-29**]
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .
   #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above)
   - Tylenol for fever; continue antibiotics, improved
   .
   # Peripheral edema: got lasix [**10-19**] [**12-25**] o2 req and crackles b/l bases
   on exam. this resulted in rising Cr
   -continue to monitor
   .
   FEN: NPO in setting of surgery today
   .
   Prophylaxis: DVT PPx currently held in setting of active GIB
   .
   Access: R PICC
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**]).
   Disposition: to ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-10-29**] 08:00 AM
   PICC Line - [**2187-10-29**] 08:22 AM
   20 Gauge - [**2187-10-29**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-10-30 11:24:00 Physician Attending Progress Note
Chief Complaint: MSSS abcesses/osteomyelitis, GI Bleed/Blood Loss
   Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Going to OR today by ortho spine for anterior laminectomy given
   worsening paraspinal abcesses and vertebral osteo on most recent MRI
   24 Hour Events:
 PICC LINE - START [**2187-10-29**] 08:22 AM
 ENDOSCOPY - At [**2187-10-29**] 11:00 AM
 EKG - At [**2187-10-29**] 03:40 PM
   History obtained from [**Hospital 19**] Medical records, icu
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 09:22 AM
   Vancomycin - [**2187-10-29**] 10:20 AM
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-10-30**] 08:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2187-10-29**] 10:54 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-30**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 106 (100 - 113) bpm
   BP: 138/63(82) {112/45(65) - 155/79(102)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,186 mL
                                                                    468 mL
   PO:
             TF:
   IVF:
                                                                    836 mL
                                                                    468 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,465 mL
                                                                    820 mL
   Urine:
                                                                  1,465 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive,
   pleasant, though speaking slowly
   Labs / Radiology
   10.0 g/dL
   559 K/uL
   81 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   30 mg/dL
   113 mEq/L
   145 mEq/L
   30.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2187-10-29**]  07:50 AM
                             [**2187-10-29**]  04:28 PM
                             [**2187-10-29**]  11:52 PM
                             [**2187-10-30**]  04:13 AM
   WBC
   13.5
   13.8
   16.3
   16.7
   Hct
   24.4
   29.4
   30.8
   30.7
   Plt
   [**Telephone/Fax (3) 10403**]59
   Cr
   0.6
   0.6
   Glucose
   109
   81
   Other labs: PT / PTT / INR:12.9/26.0/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites, recent GI bleed/now
   resolved.
   1. Metstatic MSSA infection: Cont nafcillin.  Has also been on
   cefepime/vanc/flagyl. Pain control with PCA.  Going to OR today for
   decridement/laminectomy - will remain intubated post-op and return to
   MICU
   2. GI Bleed/Blood Loss Anemia: Resolved.  Hct and hemodynamics stable.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-10-29**] 08:00 AM
   PICC Line - [**2187-10-29**] 08:22 AM
   20 Gauge - [**2187-10-29**] 10:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2187-10-31 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed, epidural abscesses
   24 Hour Events:
   -spine surgery went well, multiple abscesses present (~5, with 3 major
   ones), hardware place, cultures sent, debrided; plan for thoracic [**Doctor First Name 91**]
   in a few days too; just did cervical thus far
   -post-op Hct stable; K repleted o/n; got blood/plt/colloid/albumin in
   OR
   -on neo (pressor) to maintain MAP > 80 and propofol and fentanyl for
   sedation
   -TEE not performed
   -GI: PPI gtt until tonight, then switch to [**Hospital1 **] PPI
   -spine to do early AM neuro check (RN's neuro checks all intact, thus
   far)
   -OGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 09:22 AM
   Vancomycin - [**2187-10-29**] 10:20 AM
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-10-31**] 04:09 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 20 mcg/Kg/min
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2187-10-30**] 09:00 PM
   Other medications:
   Flowsheet Data as of  [**2187-10-31**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 80 (73 - 110) bpm
   BP: 126/67(91) {88/46(60) - 156/74(103)} mmHg
   RR: 16 (13 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,194 mL
                                                                  1,209 mL
   PO:
             TF:
   IVF:
                                                                  4,944 mL
                                                                  1,119 mL
   Blood products:
                                                                  2,250 mL
   Total out:
                                                                  2,765 mL
                                                                    327 mL
   Urine:
                                                                  1,635 mL
                                                                    327 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,429 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/41/122/23/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General: Sedated on vent but follow commands
   CARDIO: RRR, no m/r/g
   LUNGS: few crackles at bases bilat
   ABDOMEN: Soft, mod distended but not tense, no rebound or guarding, no
   noticeable tenderness
   EXTREMITIES: 3+ symmetric UE and LE edema and to mid abdomen
   Labs / Radiology
   467 K/uL
   11.2 g/dL
   153 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   31 mg/dL
   115 mEq/L
   145 mEq/L
   34.0 %
   17.2 K/uL
        [image002.jpg]
                             [**2187-10-29**]  11:52 PM
                             [**2187-10-30**]  04:13 AM
                             [**2187-10-30**]  01:16 PM
                             [**2187-10-30**]  04:01 PM
                             [**2187-10-30**]  05:10 PM
                             [**2187-10-30**]  05:23 PM
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
   WBC
   16.3
   16.7
   13.7
   15.5
   17.2
   Hct
   30.8
   30.7
   30
   26
   25.3
   26
   29.8
   34.0
   Plt
   526
   559
   478
   454
   467
   Cr
   0.6
   0.6
   0.8
   TCO2
   25
   23
   22
   24
   24
   Glucose
   81
   94
   105
   119
   122
   153
   Other labs: PT / PTT / INR:13.3/26.8/1.1, Differential-Neuts:74.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL,
   Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**10-31**] done
   CXR [**10-30**] done
   [**10-30**] c-spine done
   CXR [**10-29**] Consolidation at the base of the left lung has been present
   for more than a
   week, probably atelectasis, accompanied by at least a small left
   pleural effusion.
   Progressive opacification has been developing in the right lower
   hemithorax since [**10-22**]. Some of this is doubtless due to a
   moderate right pleural effusion, but there is sufficient lung
   opacification indicated by air bronchograms to raise possibility of
   right lower lobe pneumonia. Azygous distention indicates volume
   overload, less reliable if the patient was supine for this study. Heart
   size is normal. Dr. [**First Name8 (NamePattern2) 9282**] [**Last Name (NamePattern1) **] was paged.
   Microbiology: [**10-30**] wound cxrs pending
   B cxrs [**10-27**] and [**10-28**] pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.
   - Underwent neurosurgical procedure (epidural abscess drainage,
   corpectomy, laminectomy, fusion) yesterday
   - fu ID recs; Per ID, TEE intra-op or while intubated given CXR showed
   evidence of septic emboli
 was not done during surgery, will d/w cards
   today.
   - Continue Nafcillin for MSSA bacteremia and epidural abscess
   - f/u cultures
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - Will get MRI T/L spine today per ortho spine recss
   - Pt is intubated and sedated for now, pending decreased swelling in
   the cervical spine and completion of spinal surgeries to wash out her
   spine.
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - NPO / holding tube feeds
   - Change pantoprazole gtt for another 24 hours to IV PPI [**Hospital1 **]
   - Hct stable; check [**Hospital1 **] to ensure stable hct
   - f/u GI recs
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, per recent
   films. Clinically, pt is afebrile and without cough or other
   respiratory issues.   Will continue to monitor vitals, fever curve, and
   get sputum cultures if cough develops.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - Pt is sedated and intubated for now, pending completion of spine
   surgeries; can re-start morphine PCA when pt is extubated.
   .
   Less active issues:
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. consider fluconazole if not
   improved by [**10-29**]
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .
   #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above)
   - Tylenol for fever; continue antibiotics, improved
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] o2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN.
   - continue to monitor
   .
   FEN: NPO for MRI. Would start tube feeds today, pending MRI.  Can make
   pt NPO after midnight if neurosx plans to take patient to surgery in
   the AM.
   .
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI
   .
   Access: R PICC
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  ICU
   ICU Care
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Code status: Full code

2187-10-31 12:34:00 Physician Attending Progress Note
Chief Complaint: MSSA epidural abcesses/osteo
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Went to OR yesterday
   24 Hour Events:
 EKG - At [**2187-10-30**] 08:42 AM
 OR RECEIVED - At [**2187-10-30**] 07:40 PM
 MULTI LUMEN - START [**2187-10-30**] 07:40 PM
 INVASIVE VENTILATION - START [**2187-10-30**] 08:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 09:22 AM
   Vancomycin - [**2187-10-29**] 10:20 AM
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-10-31**] 12:19 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-10-30**] 09:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-31**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 91 (73 - 96) bpm
   BP: 112/60(80) {88/46(60) - 165/89(119)} mmHg
   RR: 16 (14 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,194 mL
                                                                  2,042 mL
   PO:
             TF:
   IVF:
                                                                  4,944 mL
                                                                  1,952 mL
   Blood products:
                                                                  2,250 mL
   Total out:
                                                                  2,765 mL
                                                                    782 mL
   Urine:
                                                                  1,635 mL
                                                                    542 mL
   NG:
   Stool:
   Drains:
   240 mL
   Balance:
                                                                  4,429 mL
                                                                  1,260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/41/156/23/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 312
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   467 K/uL
   153 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   31 mg/dL
   115 mEq/L
   145 mEq/L
   33.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2187-10-30**]  01:16 PM
                             [**2187-10-30**]  04:01 PM
                             [**2187-10-30**]  05:10 PM
                             [**2187-10-30**]  05:23 PM
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
   WBC
   13.7
   15.5
   17.2
   Hct
   30
   26
   25.3
   26
   29.8
   34.0
   33.4
   Plt
   [**Telephone/Fax (3) 10426**]
   Cr
   0.6
   0.8
   TCO2
   25
   23
   22
   24
   24
   24
   Glucose
   94
   105
   119
   122
   153
   Other labs: PT / PTT / INR:13.3/26.8/1.1, Differential-Neuts:74.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL,
   Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites, recent GI bleed/now
   resolved.
   1. Metstatic MSSA infection: Cont nafcillin.  Now s/p laminectomy
   yesterday.
   2. GI Bleed/Blood Loss Anemia: Resolved.  Hct and hemodynamics stable.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2187-11-01 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2187-10-31**] 11:57 AM
 MAGNETIC RESONANCE IMAGING - At [**2187-10-31**] 09:00 PM
   - Cards would not do TTE as recent c-spine [**Doctor First Name 91**] is absolute
   contraindication. Will need to discuss with anesthesiologist when pt
   next goes to surgery.
   - Went for MRI brain/T/L spine this PM for ortho surgical planning.
   Ortho spine aware that MRI completed and think there's an abscess
   around L5.
   - Per spine, patient will go for surgery Friday AM. Can receive tube
   feeds today.
   - Patient comfortable while intubated and minimally sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 09:22 AM
   Vancomycin - [**2187-10-29**] 10:20 AM
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-10-31**] 04:19 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-1**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 76 (75 - 118) bpm
   BP: 111/57(75) {97/55(71) - 178/89(125)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (6 - 18)mmHg
   Total In:
                                                                  2,778 mL
                                                                    295 mL
   PO:
   TF:
                                                                      7 mL
   IVF:
                                                                  2,628 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  1,077 mL
                                                                    680 mL
   Urine:
                                                                    837 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    240 mL
                                                                    130 mL
   Balance:
                                                                  1,701 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Spine
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/39/136/24/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 340
   Physical Examination
   GEN: intubated, eyes open spontaneously, shakes eyes/head minimally to
no pain
, eyes track
   CV: no murmurs appreciated, rrr
   PULM: CTAB
   ABD: soft, nt, nd, +bs
   EXTR: 2+ edema legs and hands b/l
   Labs / Radiology
   496 K/uL
   10.5 g/dL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   2.9 mEq/L
   30 mg/dL
   113 mEq/L
   143 mEq/L
   31.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2187-10-30**]  05:10 PM
                             [**2187-10-30**]  05:23 PM
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
                            [**2187-11-1**]  04:20 AM
                            [**2187-11-1**]  04:37 AM
   WBC
   13.7
   15.5
   17.2
   20.4
   Hct
   25.3
   26
   29.8
   34.0
   33.4
   31.6
   Plt
   [**Telephone/Fax (3) 10453**]96
   Cr
   0.6
   0.8
   0.9
   TCO2
   22
   24
   24
   24
   24
   Glucose
   119
   122
   153
   121
   Other labs: PT / PTT / INR:13.5/27.0/1.2, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   MRI L-spine wetread:
   New epidural fluid collection with rim enhancement in the posterior
   epidural space spanning L5-S2, c/w epidural abscess. Measures roughly 5
   x 1cm x 6mm.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.
   - Underwent neurosurgical procedure (epidural abscess drainage,
   corpectomy, laminectomy, fusion) on [**10-30**]
   - Plan for repeat NS on [**11-2**] (NPO post MN)
   - f/u NS recs
   - f/u MRI thoracic spine (scheduled today at 1pm) with contrast
   - f/u read of MRI lumbar spine (from evening of [**10-31**])
   - f/u ID recs
   - Per ID, TEE intra-op or while intubated given CXR showed evidence of
   septic emboli
 was not done during surgery, will d/w anesthesia today
   regarding potential for [**11-2**]
s surgery; ID notes that this can be put
   on hold for now, given cervical spine status
   - Continue Nafcillin for MSSA bacteremia and epidural abscess
   - f/u cultures
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - Pt is intubated and sedated for now, pending decreased swelling in
   the cervical spine and completion of spinal surgeries to wash out her
   spine.
   - continue fentanyl for pain control
   .
   # BP/Volume status:
   -  Wean down levo, goal MAP >65
   - Aim to keep UO >25 cc/hour, can bolus IVF prn to keep this level of
   UO maintained today; hold lasix today as pre-op (even though has
   peripheral edema)
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - Tube feeds restarted today
   - s/p pantoprazole gtt; now on IV PPI [**Hospital1 **]
   - Hct stable; check daily Hct
   - f/u GI recs
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, per recent
   films. Clinically, pt had low-grade temp, but without cough or other
   respiratory issues.   Will continue to monitor vitals, fever curve, and
   get sputum cultures if cough develops.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - Pt is sedated and intubated for now, pending completion of spine
   surgeries; can re-start morphine PCA when pt is extubated.
   - Fentanyl for pain control for now
   .
   Less active issues:
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. consider fluconazole if not
   improved by [**10-29**]
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .
   #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above)
   - Tylenol for fever; continue antibiotics, improved
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] o2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN
   - continue to monitor
   .
   FEN: Ok for tube feeds today, NPO post MN for surgery on [**11-2**].
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI. IV vitamin K [**11-1**], 3 days of PO
   vitamin K ([**Date range (1) 10455**])
   .
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2187-11-1**] 06:33 AM 10 mL/hour
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   Code status: Full code

2187-11-01 11:57:00 Physician Attending Progress Note
Chief Complaint: MMSA paraspinal abcesses
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRI lumbar spine showed: New epidural fluid collection with rim
   enhancement in the posterior epidural
   space spanning L5-S2, c/w epidural abscess (prelim)
   24 Hour Events:
 ARTERIAL LINE - START [**2187-10-31**] 11:57 AM
 MAGNETIC RESONANCE IMAGING - At [**2187-10-31**] 09:00 PM
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2187-10-29**] 12:01 PM
   Nafcillin - [**2187-11-1**] 08:10 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-11-1**] 09:21 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-1**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 79 (75 - 118) bpm
   BP: 114/60(79) {97/55(73) - 178/89(125)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (6 - 18)mmHg
   Total In:
                                                                  2,778 mL
                                                                    665 mL
   PO:
   TF:
                                                                     52 mL
   IVF:
                                                                  2,628 mL
                                                                    613 mL
   Blood products:
   Total out:
                                                                  1,077 mL
                                                                    910 mL
   Urine:
                                                                    837 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
                                                                    240 mL
                                                                    130 mL
   Balance:
                                                                  1,701 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Spine
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/39/136/24/-1
   Ve: 6.8 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   496 K/uL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   2.9 mEq/L
   30 mg/dL
   113 mEq/L
   143 mEq/L
   31.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2187-10-30**]  05:10 PM
                             [**2187-10-30**]  05:23 PM
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
                            [**2187-11-1**]  04:20 AM
                            [**2187-11-1**]  04:37 AM
   WBC
   13.7
   15.5
   17.2
   20.4
   Hct
   25.3
   26
   29.8
   34.0
   33.4
   31.6
   Plt
   [**Telephone/Fax (3) 10453**]96
   Cr
   0.6
   0.8
   0.9
   TCO2
   22
   24
   24
   24
   24
   Glucose
   119
   122
   153
   121
   Other labs: PT / PTT / INR:13.5/27.0/1.2, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites, recent GI bleed/now
   resolved.
   1. Metstatic MSSA infection: Had cervical procedure earlier this week,
   going back to OR for evacuation of large thoraco-lumbar-sacral
   collection tomorrow.  Repeat MRI thoracic spine today per ortho spine.
   Cont nafcillin.
   2. GI Bleed/Blood Loss Anemia: Resolved.  Hct and hemodynamics stable.
   3. Respiratory Failure: Cont current vent managment
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2187-11-1**] 06:33 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2187-11-02 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2187-11-1**] 03:01 PM
   - Expanding T-spine epidural abscess, MRI T spine today and plan for
   neurosurgery for L spine and T spine tomorrow PM
   - MAP >65 goal, plan to wean Levo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2187-11-2**] 05:12 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-11-1**] 09:21 AM
   Fentanyl - [**2187-11-1**] 06:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-2**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 89 (76 - 116) bpm
   BP: 103/47(63) {96/44(59) - 194/87(127)} mmHg
   RR: 16 (0 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,386 mL
                                                                    427 mL
   PO:
             TF:
                                                                    232 mL
   IVF:
                                                                  1,154 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    315 mL
   Urine:
                                                                  1,260 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
   Balance:
                                                                     -4 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/40/95.[**Numeric Identifier 253**]/20/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: intubated, eyes open spontaneously, shakes
   eyes/head minimally to
no pain
, eyes track
   CV: no murmurs appreciated, rrr
   PULM: CTAB
   ABD: soft, nt, nd, +bs
   EXTR: 2+ edema legs and hands b/l
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   467 K/uL
   9.7 g/dL
   107 mg/dL
   0.8 mg/dL
   20 mEq/L
   2.9 mEq/L
   28 mg/dL
   113 mEq/L
   143 mEq/L
   29.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
                            [**2187-11-1**]  04:20 AM
                            [**2187-11-1**]  04:37 AM
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
   WBC
   15.5
   17.2
   20.4
   15.8
   Hct
   29.8
   34.0
   33.4
   31.6
   29.2
   Plt
   454
   467
   496
   467
   Cr
   0.6
   0.8
   0.9
   0.8
   TCO2
   24
   24
   24
   24
   25
   Glucose
   122
   153
   121
   107
   Other labs: PT / PTT / INR:12.7/26.0/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Imaging: [**11-2**] CXR - increased b/l infiltrates and pleural effusions
   Microbiology: [**2187-10-30**] 1:06 pm SWAB      CERVICAL EPIDURAL ABCESS #1.
      GRAM STAIN (Final [**2187-10-30**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Final [**2187-11-1**]):
         STAPH AUREUS COAG +.    RARE GROWTH
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.
   - Underwent neurosurgical procedure (epidural abscess drainage,
   corpectomy, laminectomy, fusion) on [**12-24**]
   - To undergo L spine decompression for another epidural abscess [**11-2**]
   at 4pm
   - f/u NS recs
   - f/u MRI thoracic spine (scheduled today at 1pm) with contrast
   - f/u read of MRI lumbar spine (from evening of [**10-31**])
   - f/u ID recs
   - Per ID, TEE intra-op or while intubated given CXR showed evidence of
   septic emboli
 was not done during surgery, will d/w anesthesia today
   regarding potential for [**11-2**]
s surgery; ID notes that this can be put
   on hold for now, given cervical spine status
   - Continue Nafcillin for MSSA bacteremia and epidural abscess
   - f/u cultures
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - Pt is intubated and sedated for now, pending decreased swelling in
   the cervical spine and completion of spinal surgeries to wash out her
   spine.
   - continue fentanyl for pain control
   .
   # BP/Volume status:
   -  Wean down levo, goal MAP >65
   - Aim to keep UO >25 cc/hour, can bolus IVF prn to keep this level of
   UO maintained today; hold lasix today as pre-op (even though has
   peripheral edema)
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - Tube feeds restarted today
   - s/p pantoprazole gtt; now on IV PPI [**Hospital1 **]
   - Hct stable; check daily Hct
   - f/u GI recs
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, per recent
   films. Clinically, pt had low-grade temp, but without cough or other
   respiratory issues.   Will continue to monitor vitals, fever curve, and
   get sputum cultures if cough develops.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - Pt is sedated and intubated for now, pending completion of spine
   surgeries; can re-start morphine PCA when pt is extubated.
   - Fentanyl for pain control for now
   .
   Less active issues:
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. consider fluconazole if not
   improved by [**10-29**]
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .
   #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above)
   - Tylenol for fever; continue antibiotics, improved
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] o2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN
   - continue to monitor
   .
   FEN: Ok for tube feeds today, NPO post MN for surgery on [**11-2**].
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI. IV vitamin K [**11-1**], 3 days of PO
   vitamin K ([**Date range (1) 10455**])
   .
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   18 Gauge - [**2187-11-1**] 06:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-02 10:16:00 Physician Attending Progress Note
Chief Complaint:  MSSA paraspinal abcesses/osteomyelitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had thoraic spine MRI - T4 collection smaller, T7 collection stable,
   still evidence of osteo/discitis (prelim)
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2187-11-1**] 03:01 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2187-11-2**] 05:12 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2187-11-1**] 06:18 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-2**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 99 (76 - 116) bpm
   BP: 128/62(82) {96/44(59) - 194/87(127)} mmHg
   RR: 0 (0 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,386 mL
                                                                    473 mL
   PO:
             TF:
                                                                    232 mL
   IVF:
                                                                  1,154 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    437 mL
   Urine:
                                                                  1,260 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
   Balance:
                                                                     -4 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 36 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/40/95.[**Numeric Identifier 253**]/20/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   467 K/uL
   107 mg/dL
   0.8 mg/dL
   20 mEq/L
   2.9 mEq/L
   28 mg/dL
   113 mEq/L
   143 mEq/L
   29.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2187-10-30**]  08:06 PM
                             [**2187-10-30**]  08:13 PM
                             [**2187-10-31**]  03:44 AM
                             [**2187-10-31**]  03:55 AM
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
                            [**2187-11-1**]  04:20 AM
                            [**2187-11-1**]  04:37 AM
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
   WBC
   15.5
   17.2
   20.4
   15.8
   Hct
   29.8
   34.0
   33.4
   31.6
   29.2
   Plt
   454
   467
   496
   467
   Cr
   0.6
   0.8
   0.9
   0.8
   TCO2
   24
   24
   24
   24
   25
   Glucose
   122
   153
   121
   107
   Other labs: PT / PTT / INR:12.7/26.0/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Microbiology: Epidural abcess (OR): Coag pos staph
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites, recent GI bleed/now
   resolved.
   1. Metstatic MSSA infection: Had cervical procedure earlier this week,
   going back to OR for evacuation of lunbar collection today. Cont
   nafcillin.
   2. GI Bleed/Blood Loss Anemia: Resolved.  Hct and hemodynamics stable.
   3. Respiratory Failure: Cont current vent managment - will aim for
   extubation tomorrow after surgery today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   18 Gauge - [**2187-11-1**] 06:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2187-11-03 11:08:00 Physician Attending Progress Note
Chief Complaint: MSSA epidural abcesses/oste
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   To OR yesterday for evacuation of lumbar epidural abcess
   24 Hour Events:
 OR SENT - At [**2187-11-2**] 11:30 AM
 OR RECEIVED - At [**2187-11-2**] 03:00 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2187-11-3**] 06:09 AM
   Gentamicin - [**2187-11-3**] 10:03 AM
   Infusions:
   Fentanyl (Concentrate) - 35 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-11-2**] 02:00 PM
   Pantoprazole (Protonix) - [**2187-11-3**] 10:03 AM
   Fentanyl - [**2187-11-3**] 10:17 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-3**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 109 (93 - 115) bpm
   BP: 143/66(91) {91/38(55) - 156/90(107)} mmHg
   RR: 11 (11 - 62) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (6 - 14)mmHg
   Total In:
                                                                  1,933 mL
                                                                  1,186 mL
   PO:
   TF:
   IVF:
                                                                  1,233 mL
                                                                  1,186 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,037 mL
                                                                    335 mL
   Urine:
                                                                    787 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    896 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/32/120/21/-2
   Ve: 5.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   486 K/uL
   123 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.2 mEq/L
   28 mg/dL
   114 mEq/L
   143 mEq/L
   25.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2187-10-31**]  11:58 AM
                             [**2187-10-31**]  12:12 PM
                            [**2187-11-1**]  04:20 AM
                            [**2187-11-1**]  04:37 AM
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
   WBC
   20.4
   15.8
   15.1
   Hct
   33.4
   31.6
   29.2
   28.2
   25.4
   Plt
   496
   467
   486
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   24
   24
   25
   23
   21
   Glucose
   121
   107
   107
   123
   Other labs: PT / PTT / INR:12.9/26.7/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites.
   1. Metstatic MSSA infection: now s/p cervical and lumbar collections.
   Had bone marrow intraop to help with workup of possible
   immunodeficiency.  Cont nafcillin - gentamicin added. Will need to
   continue to work on pain control - will transition to fentayl patch
   plus bolus from fentanyl gtt post-extubation
   2. Respiratory Failure: Aim to extubate today
   3. Anemia: Hct down to 25 - will trand
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2187-11-04 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-11-3**] 11:15 AM
 EKG - At [**2187-11-3**] 08:39 PM
   HR 110-118
   - pt extubated without complication
   - plan for A line and central line removal after extubation
   - pt tachycardic (100-110s) since surgery. Denies pain or anxiety. No
   CP/SOB. O2sats 93-94% when asleep -> 97% with deep breaths. ECG showed
   sinus tach, no ST-T changes, unchanged from prior.
   - Lasix 20mg IV x1 given with good UOP.
   - Gentamycin trough 2.7 and peak 3.6 discussed with pharm -> changed
   dose from 70mg to 60mg Q8hr.
   - Need to get HIV consent today.
   - On O2 40% via face tent, patient refused CXR this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-11-3**] 10:03 AM
   Nafcillin - [**2187-11-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2187-11-3**] 10:17 AM
   Furosemide (Lasix) - [**2187-11-3**] 11:43 AM
   Pantoprazole (Protonix) - [**2187-11-3**] 08:39 PM
   Morphine Sulfate - [**2187-11-4**] 05:00 AM
   Other medications:
   Flowsheet Data as of  [**2187-11-4**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 100 (97 - 117) bpm
   BP: 158/66(96) {129/60(83) - 175/82(113)} mmHg
   RR: 19 (10 - 65) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,913 mL
                                                                    287 mL
   PO:
             TF:
   IVF:
                                                                  1,913 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    245 mL
   Urine:
                                                                  2,190 mL
                                                                    245 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                   -727 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.41/32/120/21/-2
   Ve: 5.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GEN: nad,
   CV rrr, no murmurs appreciated
   PULM clear b/l
   ABD soft, nt, nd
   EXTR significant edema bilat U&LE
   Labs / Radiology
   637 K/uL
   9.3 g/dL
   102 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   28 mg/dL
   112 mEq/L
   141 mEq/L
   27.5 %
   17.4 K/uL
        [image002.jpg]
                            [**2187-11-1**]  04:37 AM
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
   WBC
   15.8
   15.1
   18.8
   17.4
   Hct
   29.2
   28.2
   25.4
   29.7
   27.5
   Plt
   467
   486
   580
   637
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TCO2
   24
   25
   23
   21
   Glucose
   107
   107
   123
   119
   102
   Other labs: PT / PTT / INR:12.9/26.7/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Fluid analysis / Other labs:
   Imaging: CXR [**11-4**]
   CXR [**11-3**] Limited study demonstrating possible interval decrease in
   pleural fluid. No other significant change.
   Microbiology: Wound swab from surgery - MSSA
   ECG: sinus tach, no STEMI
   Assessment and Plan
 EPIDUARL ABSCESS
 BACK PAIN
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.  Underwent
   neurosurgical procedure (epidural abscess drainage, corpectomy,
   laminectomy, fusion) on [**10-30**] (cervical), [**11-2**] (lumbar-sacral).
   - Continue Nafcillin for MSSA bacteremia and epidural abscess; added on
   gentamycin on [**11-2**] per ID (likely 5 day course, at 1mg/kg tid dosing,
   peak/trough as above, decreased dose from 70mg Q8hr to 60mg Q8hr)
   - f/u cultures
   - f/u NS recs
   - f/u ID recs
   - daily HCTs
   - Will hold on TEE given patient
s management will not change based on
   results and will be high risk given cervical collar and recent cervical
   surgery
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - pt extubated on without complications ([**11-3**])
   - on Fentanyl patch and morphine IV boluses for pain
   - once extubated, if stable, plan to pull a-line and central line given
   bacterial infection
   - etiology unclear; consider causes for immunosuppression (HIV test
   once consentable, send Ig
s, SPEP, UPEP, cbc with diff, flow cytometry,
   smear, f/u bone marrow biopsy results (done intra-op on [**11-2**]).
   .
   # BP/Volume status:
   - Volume overloaded, will give another 20 IV lasix this morning to help
   with fluid mobilization
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - now on IV PPI [**Hospital1 **]; s/p pantoprazole gtt
   - Hct stable; check daily Hct
   - f/u GI recs
   .
   Less active issues:
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, seen in
   recent CXR
s. Clinically, pt has had low-grade temp, but without cough
   or other respiratory issues.   Will continue to monitor vitals, fever
   curve, and get sputum cultures if cough develops. Monitor resp status
   s/p extubation today.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - Pt is sedated and intubated for now, pending completion of spine
   surgeries.
   - Fentanyl and morphine boluses for pain
   - discuss w/patient once extubated; controlled for now
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP.
   Improving.
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. Improving.
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .  #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting
   of dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above)
   - Tylenol for fever; continue antibiotics, improved
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] O2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN; hope to start PO once extubated
   - 20 IV lasix on [**11-3**]
   .
   FEN: NPO; once extubated hope to start PO and optimize
   albumin/nutritional status.
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI. IV vitamin K [**11-1**], 3 days of PO
   vitamin K ([**Date range (1) 10455**])
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  ICU

2187-11-04 10:42:00 Physician Attending Progress Note
Chief Complaint: MSSA episdural abcesses/osteomyelitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pain well-controlled
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-11-3**] 11:15 AM
 EKG - At [**2187-11-3**] 08:39 PM
   HR 110-118
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-11-4**] 08:47 AM
   Nafcillin - [**2187-11-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-11-3**] 11:43 AM
   Pantoprazole (Protonix) - [**2187-11-3**] 08:39 PM
   Morphine Sulfate - [**2187-11-4**] 07:46 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-4**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 108 (97 - 117) bpm
   BP: 172/77(108) {129/60(83) - 186/86(122)} mmHg
   RR: 18 (10 - 65) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,913 mL
                                                                    586 mL
   PO:
             TF:
   IVF:
                                                                  1,913 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    445 mL
   Urine:
                                                                  2,190 mL
                                                                    445 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                   -727 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), hyperdynamic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.3 g/dL
   637 K/uL
   102 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   28 mg/dL
   112 mEq/L
   141 mEq/L
   27.5 %
   17.4 K/uL
        [image002.jpg]
                            [**2187-11-1**]  04:37 AM
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
   WBC
   15.8
   15.1
   18.8
   17.4
   Hct
   29.2
   28.2
   25.4
   29.7
   27.5
   Plt
   467
   486
   580
   637
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   TCO2
   24
   25
   23
   21
   Glucose
   107
   107
   123
   119
   102
   Other labs: PT / PTT / INR:12.9/26.7/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites.
   1. Metstatic MSSA infection: now s/p cervical and lumbar collections.
   Had bone marrow intraop to help with workup of possible
   immunodeficiency.  Cont nafcillin and gentamicin - though holding gent
   doses today for high trough.
   2. Respiratory Failure: Doing well post-extubation
   3. Anemia: Hct stable
   4. Tachycardia: persistent
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Arterial Line - [**2187-10-31**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2187-11-05 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-11-4**] 03:00 PM
   - Regular diet with ensure started
   - Gent peak/trough (holding today's dose)
   - Ortho spine recs:  Not taking back to OR, hold SC Heparin until drain
   out (unsure of date, check with regular team tomorrow)
   - HIV, SPEP, UPEP pending
   - Tachycardic to HR 110's-120's, patient reported pain and anxiety but
   had to be convinced to take Morphine (hesitant to take medications).
   Also given 250cc fluid bolus as she has poor po intake due to sore
   throat and said she felt thirsty
   - Ask Ortho if it's safe to place Dobhoff with c-collar in place
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-11-4**] 08:47 AM
   Nafcillin - [**2187-11-5**] 06:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-11-5**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-5**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 101 (101 - 121) bpm
   BP: 140/69(84) {137/65(83) - 157/76(95)} mmHg
   RR: 33 (17 - 42) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,370 mL
                                                                    296 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,220 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    480 mL
   Urine:
                                                                    970 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   553 K/uL
   8.7 g/dL
   128 mg/dL
   1.0 mg/dL
   22 mEq/L
   2.8 mEq/L
   27 mg/dL
   114 mEq/L
   146 mEq/L
   26.3 %
   14.2 K/uL
        [image002.jpg]
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
                            [**2187-11-5**]  04:24 AM
   WBC
   15.8
   15.1
   18.8
   17.4
   14.2
   Hct
   29.2
   28.2
   25.4
   29.7
   27.5
   26.3
   Plt
   467
   486
   580
   637
   553
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   25
   23
   21
   Glucose
   107
   107
   123
   119
   102
   128
   Other labs: PT / PTT / INR:12.9/26.7/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   No new micro
 just shows staph from 8^th and 11^th of the month
   No new imaging today
   Assessment and Plan
 ALTERATION IN NUTRITION
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.  Underwent
   neurosurgical procedure (epidural abscess drainage, corpectomy,
   laminectomy, fusion) on [**10-30**] (cervical), [**11-2**] (lumbar-sacral).
   - Continue Nafcillin for MSSA bacteremia and epidural abscess; added on
   gentamycin on [**11-2**] per ID (likely 5 day course, at 1mg/kg tid dosing,
   peak/trough as above, decreased dose from 70mg Q8hr to 60mg Q8hr)
   - f/u cultures
   - f/u NS recs
   - f/u ID recs
   - daily HCTs
   - Will hold on TEE given patient
s management will not change based on
   results and will be high risk given cervical collar and recent cervical
   surgery
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - pt extubated on without complications ([**11-3**])
   - on Fentanyl patch and morphine IV q4h prn for pain
   - once extubated, if stable, plan to pull a-line and central line given
   bacterial infection
   - etiology unclear; consider causes for immunosuppression (HIV test
   once consentable, SPEP, UPEP, cbc with diff, flow cytometry, smear, f/u
   bone marrow biopsy results (done intra-op on [**11-2**]).
   - Obtain consent for HIV
   .
   # BP/Volume status:
   - Volume overloaded, but given slight elevation of Cr and use of Gent,
   will hold off on diuresis for now
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - now on IV PPI [**Hospital1 **]; s/p pantoprazole gtt
   - Hct stable; check daily Hct
   - f/u GI recs
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above), perhaps abscess on heart, perhaps PE post-op.
   - Tylenol for fever; continue antibiotics
   .
   Less active issues:
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, seen in
   recent CXR
s. Clinically, pt has had low-grade temp, but without cough
   or other respiratory issues.   Will continue to monitor vitals, fever
   curve, and get sputum cultures if cough develops. Monitor resp status
   s/p extubation.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - well controlled on fentanyl patch and morphine IV prn for pain
   - improve bowel reg: Goal BM today.
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP.
   Improving.
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. Improving.
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .  #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting
   of dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] O2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN; hope to start PO once extubated
   - 20 IV lasix on [**11-3**]
   .
   FEN: regular diet w. boost supplementation; goal BM today.
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI. C-collar x 8wks [**First Name8 (NamePattern2) 77**] [**Last Name (un) **] spine.
   Start heparin SQ. Place PT consult.
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  Consider calling out today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-05 09:26:00 Physician Attending Progress Note
Chief Complaint: MSSA paraspinal abcesses, osteomyelitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pain well controlled
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-11-4**] 03:00 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2187-11-5**] 06:24 AM
   Gentamicin - [**2187-11-5**] 09:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-11-5**] 04:03 AM
   Pantoprazole (Protonix) - [**2187-11-5**] 08:08 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-5**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 110 (101 - 121) bpm
   BP: 144/81(94) {137/65(83) - 157/81(95)} mmHg
   RR: 25 (17 - 47) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,370 mL
                                                                    456 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,220 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    645 mL
   Urine:
                                                                    970 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, c-collar in place
   Cardiovascular: (S1: Normal), (S2: Normal), hyperdynamic, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   553 K/uL
   128 mg/dL
   1.0 mg/dL
   22 mEq/L
   2.8 mEq/L
   27 mg/dL
   114 mEq/L
   146 mEq/L
   26.3 %
   14.2 K/uL
        [image002.jpg]
                            [**2187-11-2**]  03:55 AM
                            [**2187-11-2**]  04:23 AM
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
                            [**2187-11-5**]  04:24 AM
   WBC
   15.8
   15.1
   18.8
   17.4
   14.2
   Hct
   29.2
   28.2
   25.4
   29.7
   27.5
   26.3
   Plt
   467
   486
   580
   637
   553
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   25
   23
   21
   Glucose
   107
   107
   123
   119
   102
   128
   Other labs: PT / PTT / INR:12.9/26.7/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:54/0.7, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites.
   1. Metstatic MSSA infection: now s/p cervical and lumbar collections.
   Cont nafcillin and gentamicin - f/u peaks and troughs.  F/U intraop
   bone marrow bx.
   2. Anemia: Hct 26 --> cont to trend
   3. Tachycardia: persistent
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Given high level nursing need and plan to put in Dobhoff today for
   increased nutritional support will keep her in ICU today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2187-11-5**] 09:31 AM ------

2187-11-06 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NPO as aspirating per speech & swallow; Dobhoff placed; TF's started
   - held gent d/t high level; check level in AM - if <2 give one more
   dose, if >2 d/c
   - NS changed dressings in evening; c/d/i; they plan to come & remove
   [**Location (un) 2760**]-[**Location (un) 4028**] drain on [**11-6**]
   - stooling
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-11-5**] 09:03 AM
   Nafcillin - [**2187-11-6**] 05:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-11-5**] 08:45 PM
   Morphine Sulfate - [**2187-11-6**] 03:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 112 (95 - 115) bpm
   BP: 142/70(88) {127/67(84) - 153/82(95)} mmHg
   RR: 48 (17 - 48) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,612 mL
                                                                    469 mL
   PO:
                                                                     50 mL
             TF:
                                                                    107 mL
                                                                    185 mL
   IVF:
                                                                  1,140 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    575 mL
   Urine:
                                                                  2,440 mL
                                                                    575 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,028 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   544 K/uL
   8.8 g/dL
   131 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   25 mg/dL
   115 mEq/L
   145 mEq/L
   26.5 %
   13.9 K/uL
        [image002.jpg]
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
                            [**2187-11-5**]  04:24 AM
                            [**2187-11-5**]  08:36 PM
                            [**2187-11-6**]  03:39 AM
   WBC
   15.1
   18.8
   17.4
   14.2
   13.9
   Hct
   28.2
   25.4
   29.7
   27.5
   26.3
   26.5
   Plt
   486
   580
   637
   553
   544
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   23
   21
   Glucose
   107
   123
   119
   102
   128
   118
   131
   Other labs: PT / PTT / INR:13.1/24.3/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:50/0.9, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   .
   No new imaging.
   .
   No new micro data.
   Assessment and Plan
 ALTERATION IN NUTRITION
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65F with h/o chronic back pain found to have MSSA bacteremia and
   epidural abcesses with concern for cord compression on broad spectrum
   abx and on steroid taper being transferred back from floor to MICU for
   new melena/UGIB.
   .
   #. Epidural abscesses: Appears to be staph aureus seeding of her spine.
   It does not have the appearance of metastasis. Pt has been spiking
   temps last night to 101.8 and remains tachycardic. Now c tender abd and
   cxr shows cannot r/o bl pna. WBC count up for past 2 days. Husband
   called and informed.  Repeat MRI shows organizing phlegmon into
   abscesses, no significant change in cord compression or neurologic sx.
   Nafcillin discontinued o/n and started on vanc/cefepime, cefepime
   increased to meningitis dosing and added flagyl [**12-25**] ? abd source.
   Nafcillin re-started and Vanc/Cefepime d/c
ed [**10-29**].  Started decadron
   6q6 on [**10-23**], then on pred taper, which was discontinued.  Underwent
   neurosurgical procedure (epidural abscess drainage, corpectomy,
   laminectomy, fusion) on [**10-30**] (cervical), [**11-2**] (lumbar-sacral).
   - Continue Nafcillin for MSSA bacteremia and epidural abscess; added on
   gentamycin on [**11-2**] per ID (likely 5 day course, at 1mg/kg tid dosing,
   peak/trough as above, decreased dose from 70mg Q8hr to 60mg Q8hr); f/u
   peak/trough today
   - f/u cultures
   - f/u NS recs
   - f/u ID recs
   - Will hold on TEE given patient
s management will not change based on
   results and will be high risk given cervical collar and recent cervical
   surgery
   - consider ophtho consult for ? emboli to eyes  - will hold off until
   acute epidural abscess issue/surgeries complete.
   - pt extubated without complications ([**11-3**])
   - on Fentanyl patch and morphine IV q4h prn for pain
   - once extubated, if stable, plan to pull central line given bacterial
   infection
   - etiology unclear; consider causes for immunosuppression (HIV test
   once consentable, SPEP, UPEP, f/u bone marrow biopsy results (done
   intra-op on [**11-2**]).
   - Obtain consent for HIV
   .
   # BP/Volume status:
   - Volume overloaded, give 20 IV lasix today; goal neutral to -500cc
   today (gentle diuresis, given gentamycin
s nephrotoxicity)
   .
   # GI bleed, abd discomfort - Multiple risk factors: on high dose
   steroids, received IV toradol 30 mg x 1, age. Was on IV PPI [**Hospital1 **] but
   began to have melenic stools. Received 1u pRBC and IV PPI bolus + drip
   on floor; remained hemodynamically stable. Hct bumped appropriately in
   response to transfusion. GI consulted; feels that patient is too high
   risk for scope in outpatient suites, and will need scope either in [**Hospital Ward Name **] under general anesthesia or in ICU setting.   EGD showed ulcers
   c/w NSAID use.
   - now on IV PPI [**Hospital1 **]; s/p pantoprazole gtt
   - Hct stable; check daily Hct
   - f/u GI recs
   .
   # Tachycardia: Likely due to low-grade fever, perhaps new source of
   infection (see above), perhaps abscess on heart, perhaps PE post-op.
   - Tylenol for fever; continue antibiotics
   - f/u EKG
   .
   Less active issues:
    .
   # Pneumonia: There is possibly a developing RLL pneumonia, seen in
   recent CXR
s. Clinically, pt has had low-grade temp, but without cough
   or other respiratory issues.   Will continue to monitor vitals, fever
   curve, and get sputum cultures if cough develops. Monitor resp status
   s/p extubation.
   .
   # Pain: pt has diffuse pain where her body hits bed. Pt states hip pain
   is different from her sciatic pain (which has not been bothering her in
   the hospital.).   Hip CT unremarkable.
   - well controlled on fentanyl patch and morphine IV prn for pain
   - improve bowel reg: Goal BM today.
   .
   #. ARF: Likely pre-renal in initial etiology, currently resolved.  ANCA
   and RMSF negative. babesia and anaplasma serologies negative.
   .
   # Thrush: no c/o esophageal/swalling pain so likely limited to OP.
   Improving.
   - nystatin s/s
   .
   # Yeast infection: miconazole powder. Improving.
   .
   #. Rash: vastly improved.
   - treat infection as above
   - biopsy results of odd lesion on back: "necrotizing arteritis with
   epidermal necrosis seen on biopsy of back..." derm feels this is most
   llikely reactive and does not require further w/u
   .  #. Elevated LFTs: stable. Perhaps from poor perfusion in the setting
   of dehydration, or billiary sludging in the setting of SIRS. RUQ showed
   gallbladder was distended, but no other significant findings.
   .
   # Peripheral edema: Got lasix [**10-19**] [**12-25**] O2 req and crackles b/l bases
   on exam and this resulted in rising Cr.  Pt
s baseline Albumin 1.9 on
   admission.
   - maximize FEN; hope to start PO once extubated
   - 20 IV lasix on [**11-3**]
   .
   FEN: regular diet w. boost supplementation; nutrition consult today;
   s/p IR-guided Dobhoff placed on [**11-5**], having BM
   Prophylaxis: Pneumoboots, [**Hospital1 **] IV PPI. C-collar x 8wks [**First Name8 (NamePattern2) 77**] [**Last Name (un) **] spine.
   Hold heparin SQ per spine team. Placed PT consult. Bowel regimen.
   Code: Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**])
   Disposition:  Consider calling out today.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2187-11-5**] 04:18 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-06 10:37:00 Physician Attending Progress Note
Chief Complaint: MSSA abcesses and osteomyelititis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pain well controlled - no complaints
   24 Hour Events:
 EKG - At [**2187-11-5**] 12:43 PM
   Starting to have bowel movements
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-11-5**] 09:03 AM
   Nafcillin - [**2187-11-6**] 09:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-11-5**] 08:45 PM
   Morphine Sulfate - [**2187-11-6**] 09:11 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-6**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 102 (95 - 115) bpm
   BP: 145/85(99) {127/65(82) - 153/85(99)} mmHg
   RR: 16 (16 - 48) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,612 mL
                                                                    721 mL
   PO:
                                                                     50 mL
             TF:
                                                                    107 mL
                                                                    319 mL
   IVF:
                                                                  1,140 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    765 mL
   Urine:
                                                                  2,440 mL
                                                                    765 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,028 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), hyperdynamic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   544 K/uL
   131 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   25 mg/dL
   115 mEq/L
   145 mEq/L
   26.5 %
   13.9 K/uL
        [image002.jpg]
                            [**2187-11-2**]  11:16 AM
                            [**2187-11-2**]  11:34 AM
                            [**2187-11-3**]  02:48 AM
                            [**2187-11-3**]  08:18 AM
                            [**2187-11-3**]  11:31 AM
                            [**2187-11-3**]  02:47 PM
                            [**2187-11-4**]  03:54 AM
                            [**2187-11-5**]  04:24 AM
                            [**2187-11-5**]  08:36 PM
                            [**2187-11-6**]  03:39 AM
   WBC
   15.1
   18.8
   17.4
   14.2
   13.9
   Hct
   28.2
   25.4
   29.7
   27.5
   26.3
   26.5
   Plt
   486
   580
   637
   553
   544
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   23
   21
   Glucose
   107
   123
   119
   102
   128
   118
   131
   Other labs: PT / PTT / INR:13.1/24.3/1.1, ALT / AST:21/20, Alk Phos / T
   Bili:50/0.9, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:15.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 EPIDUARL ABSCESS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 BACK PAIN
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   65 yo woman with multiple MSSA infection sites.
   1. Metstatic MSSA infection: now s/p drainage of cervical and lumbar
   collections. Cont nafcillin - gent course complete.  F/U bone marrow bx
   2. Anemia: Hct stable
   3. Tachycardia: persistent
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2187-11-5**] 04:18 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2187-10-29**] 08:22 AM
   Multi Lumen - [**2187-10-30**] 07:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin after JP drain pulled
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor